US08686024B2
(3) Synthesis of 1-benzyl-5-methoxy-3-methylindoline
To a solution of 1-benzyl-5-methoxy-3-methylindole (200 mg, 0.796 mmol) in a 1:1 solution (2.4 mL) of acetic acid and tetrahydrofuran was added sodium cyanoborohydride (150 mg, 2.38 mmol) at room temperature. After being stirred overnight, sodium cyanoborohydride (50 mg, 0.80 mmol) was added with additional stirring for 6 h. After the reaction mixture was neutralized by saturated NaHCO3 aqueous solution, the reaction mixture was diluted with ethyl acetate. The separated organic layer was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=100/0 to 90/10) to obtain the title compound (62.4 mg, 31%).

reactant | 1-benzyl-5-methoxy-3-methylindole | 0.796 mmol, 200 mg | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OC)C | C17H17NO
reactant | acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.38 mmol, 150 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.80 mmol, 50 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyl-5-methoxy-3-methylindoline | 62.4 mg, 31% | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)OC)C | C17H19NO
